US05229481
1,3.5-Tri(triethoxysilyl)benzene.
The procedure used for the preparation of 1,3-di(triethoxysilyl)benzene was followed using 1,3,5-tribromobenzene (100.0 g, 0.318 mol) in place of 1,3-dibromobenzene. Two distillations gave a clear, colorless oil (0.1 mmHg, 196-198° C., 23.4 g, 13%). Anal. Calcd for C24H48O9Si3 : C, 51.0: H, 8.56. Found: C, 51.2; H, 8.53. IR (Neat, CsI, cm-1) : 2964 s, 2920 s, 2880 s, 2730 w, 1560 m, 1480 w, 1440 m, 1386 s, 1290 m, 1160 s, 1090 vs, 955 s, 825 s, 775 s, 710 m, 670 m, 487 s. 1H NMR (benzene -d6, 22° C., 300 MHz : δ 1.16 (t, J=7.1 Hz, 18 H, OCH2CH 3), 3.87 (q, J=7.1 Hz, 12 H, OCH2CH3, 8.55 (s, 1H, C6H4). 13C{1H} NMR (benzene-d6, 22° C., 75.5 MHz ): δ 18.43 (OCH2CH3), 58.92 (OCH2CH3), 130.83, 143.60 (C6H4).

reactant | 1,3-di(triethoxysilyl)benzene | C(C)O[Si](C1=CC(=CC=C1)[Si](OCC)(OCC)OCC)(OCC)OCC | C18H34O6Si2
reactant | 1,3,5-tribromobenzene | 0.318 mol, 100.0 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | CsI | [I-].[Cs+]
product | 1,3.5-Tri(triethoxysilyl)benzene | C(C)O[Si](C1=CC(=CC(=C1)[Si](OCC)(OCC)OCC)[Si](OCC)(OCC)OCC)(OCC)OCC | C24H48O9Si3
